US08476434B2
A mixture of 3-iodo-N-(3-methyl-4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)benzamide (0.20 g, 0.37 mmol), N,N-dimethylprop-2-yn-1-amine (0.080 mL, 0.74 mmol), bis(triphenylphosphine)palladium (II) dichloride (0.013 g, 0.020 mmol), copper (I) iodide (0.0035 g, 0.020 mmol) in triethylamine (1.5 mL) and acetonitrile (5 mL) was heated in a sealed tube to 100 deg. C. for 3.5 h. The reaction was diluted in dichloromethane and filtered. The filtrate was concentrated in vacuo and the resulting material was purified by silica gel chromatography using MeOH/dichloromethane as eluent to give 3-(3-(dimethylamino)prop-1-ynyl)-N-(3-methyl-4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)benzamide as a brown solid. MS m/z=493 [M+1]+. Calc'd for C29H28N6O2: 492.58.

reactant | 3-iodo-N-(3-methyl-4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)benzamide | 0.37 mmol, 0.20 g | IC=1C=C(C(=O)NC2=CC(=C(C=C2)OC2=NC=CC=C2C2=NC(=NC=C2)NC)C)C=CC1 | C24H20IN5O2
reactant | N,N-dimethylprop-2-yn-1-amine | 0.74 mmol, 0.080 mL | CN(CC#C)C | C5H9N
solvent | triethylamine | 1.5 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | bis(triphenylphosphine)palladium | 0.020 mmol, 0.013 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 0.020 mmol, 0.0035 g | [Cu]I
product | 3-(3-(dimethylamino)prop-1-ynyl)-N-(3-methyl-4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)benzamide | CN(CC#CC=1C=C(C(=O)NC2=CC(=C(C=C2)OC2=NC=CC=C2C2=NC(=NC=C2)NC)C)C=CC1)C | C29H28N6O2
